US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethynyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-trimethylsilylethynyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one, prepared according to procedures described in Example 29 with substitution of tributyl(trimethylsilylethynyl)tin for 2-(tributylstannyl)furan (44 mg, 0.1 mmol in MeOH (1.0 mL) was added potassium carbonate (13 mg, 0.1 mmol). The reaction was stirred for 5 min and then quenched with brine. The reaction was extracted with EtOAc (2×5 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a pale yellow oil. The oil was purified by radial chromatography (silica gel, 30% EtOAc in hexanes) to give 27 mg of the desired-product as a pale yellow oil. MS (ESI) 381 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-trimethylsilylethynyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C#C[Si](C)(C)C)C(F)(F)F)=O)CC1 | C22H27F3N2O3Si
reactant | 2-(tributylstannyl)furan | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | potassium carbonate | 0.1 mmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 1.0 mL | CO | CH4O
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-ethynyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 27 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C#C)C(F)(F)F)=O)CC1 | C19H19F3N2O3
